US07435823B2
Step (a) Preparation of 6-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-1-naphthoic acid
Cs2CO3 (23.4 g, 71.9 mmol) was added in one portion to a solution of 6-hydroxy-1-naphthoic acid (5.41 g, 28.7 mmol) and 6-chloro-7-deazapurine (3.68 g, 24.0 mmol) in DMSO (47.9 ml) at RT. The resulting mixture was heated to 100° C. and stirred for 14 hours. The mixture was cooled to RT and neutralized to a pH of 7 with 6N HCl. Solid material proceeded to crash out of solution. The entire mixture was centrifuged and the liquid was decanted. To the solid was added saturated aqueous NaHCO3 and the resulting mixture was agitated over night on a rotating plate. The mixture was centrifuged again and decanted into a 1L flask. The solution was acidified to neutral pH, centrifuged again and decanted. EtOAc was added to the solid material, the mixture centrifuged and the liquid was decanted to reveal the desired compound. MS (ESI, pos. ion) m/z: 306.1 (M+1). Mass Calc'd for C18H15NO3: 305.08.

reactant | Cs2CO3 | 71.9 mmol, 23.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 6-hydroxy-1-naphthoic acid | 28.7 mmol, 5.41 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | 6-chloro-7-deazapurine | 24.0 mmol, 3.68 g | C1=CNC2=C1C(=NC=N2)Cl | C6H4ClN3
reactant | HCl | 6N | Cl | ClH
solvent | DMSO | 47.9 ml | CS(=O)C | C2H6OS
product | 6-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-1-naphthoic acid | N1=CN=C(C2=C1NC=C2)OC=2C=C1C=CC=C(C1=CC2)C(=O)O | C17H11N3O3
